US03961055
2-Methoxy-6-methylsulphonyl-10-(3-chloropropyl)phenothiazine (m.p. 122°-124°C.; 15.0 g.) is prepared by reacting 1-bromo-3-chloropropane (30.4 g.) with 2-methoxy-6-methylsulphonylphenothiazine (15.9 g.) in the presence of 85% pure ground potassium hydroxide (5.6 g.) dissolved in methyl ethyl ketone (75 cc.).

reactant | 1-bromo-3-chloropropane | 30.4 g | BrCCCCl | C3H6BrCl
reactant | 2-methoxy-6-methylsulphonylphenothiazine | 15.9 g | COC1=CC=2NC3=CC=CC(=C3SC2C=C1)S(=O)(=O)C | C14H13NO3S2
reactant | potassium hydroxide | 5.6 g | [OH-].[K+]
solvent | methyl ethyl ketone | 75 cc | C(C)C(=O)C | C4H8O
product | 2-Methoxy-6-methylsulphonyl-10-(3-chloropropyl)phenothiazine | 15.0 g | COC1=CC=2N(C3=CC=CC(=C3SC2C=C1)S(=O)(=O)C)CCCCl | C17H18ClNO3S2
